US05739742
A bismuth oxide powder (whose average particle size is about 2 to 3 μm) and a niobium oxide powder (whose average particle size is about 2 to 3 μm) were blended at a weight of 1:0.333. The blended powder was heat treated at a temperature of 575° C. for 5 hrs. in the air, and ground fine by a wet method for 18 hrs. by means of stabilizing zirconia balls in a monomalon pot. Consequently, a bismuth oxide/niobium oxide (Bi2O3 /Nb2O5) synthetic powder (2.33/0.333, whose average particle size is about 2 to 3 μm) was obtained. By the same method, a Bi2O3 /B2O3 synthetic powder (2.33/0.10, whose average particle size is about 2 to 3 μm), a Bi2O3 /Cr2O3 synthetic powder (2.33/0.41, whose average particle size is about 2 to 3 μm), a Bi2O3 /GeO2 synthetic powder (2.33/0.10, whose average particle size is about 2 to 3 μ m), a Bi2O3 /La2O3 synthetic powder (2.33/0.41, whose average particle size is about 2 to 3 μm), a Bi2O3 /MgO synthetic powder (2.33/0.41, whose average particle size is about 2 to 3 μm), a Bi2O3 /Nd2O3 synthetic powder (2.33/0.50, whose average particle size is about 2 to 3 μm), a BI2O3 /PbO synthetic powder (2.33/0.29, whose average particle size is about 2 to 3 μm), a Bi2O3 /Pr6O11 synthetic powder (2.33/0.64, whose average particle size is about 2 to 3 μm), a Bi2O3 /Sb2O3 synthetic powder (2.33/0.27, whose average particle size is about 2 to 3 μm), a Bi2O3 /SiO2 synthetic powder (2.33/0.077, whose average particle size is about 2 to 3 μm), a Bi2O3 /SnO2 synthetic powder (2.33/0.19, whose average particle size is about 2 to 3 μm), a Bi2O3 /Ta2O5 synthetic powder (2.33/0.66, whose average particle size is about 2 to 3 μm), a Bi2O3 /WO3 synthetic powder (2.33/ 0.29, whose average particle size is about 2 to 3 μm), and a Bi2O3 /Y2O3 synthetic powder (2.33/0.28, whose average particle size is about 2 to 3 μm) were obtained.

reactant | bismuth oxide | [Bi]=O
reactant | niobium oxide | [O-2].[Nb+5].[O-2].[O-2].[O-2].[O-2].[Nb+5]
product | bismuth oxide niobium oxide | [Bi]=O.[O-2].[Nb+5].[O-2].[O-2].[O-2].[O-2].[Nb+5] | InChI=1S/Bi.2Nb.6O/q;2*+5;;5*-2
